US04956359
N-Phenyl-3-[4-(trifluoromethyl)phenoxy]-1-azetidinecarboxamide
A stirred slurry of 6.2 g (0.02 mole) of 3-[4-(trifluoromethyl)phenoxy]azetidine oxalate and 2.62 g (0.022 mole) of phenyl isocyanate in 60 ml of tetrahydrofuran was treated with 5 ml of triethylamine and stirring continued for 16 hr. The reaction mixture was diluted with water until an oil separated. The tetrahydrofuran-water portion was decanted and the residue solidified on standing. Recrystallization from ethanol-water yielded 3.5 g (53.4%) of fine white crystals, m.p. 174.5°-176° C.

reactant | 3-[4-(trifluoromethyl)phenoxy]azetidine oxalate | 0.02 mole, 6.2 g | C(C(=O)O)(=O)O.FC(C1=CC=C(OC2CNC2)C=C1)(F)F
reactant | phenyl isocyanate | 0.022 mole, 2.62 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | N-Phenyl-3-[4-(trifluoromethyl)phenoxy]-1-azetidinecarboxamide | 3.5 g, 53.4% | C1(=CC=CC=C1)NC(=O)N1CC(C1)OC1=CC=C(C=C1)C(F)(F)F | C17H15F3N2O2
